US08278336B2
1-[4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydroimidazo[4,5-b]pyridin-2-one
A mixture of 0.361 g (1.24 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one dihydrochloride, 0.380 mg (1.24 mmol) (2-chloro-6-methoxypyridin-4-yl)-(5-fluoro-2,3-dihydroindol-1-yl)-methanone and 514 mg (3.72 mmol) potassium carbonate in 3.0 mL NMP was stirred for 8 h at 130° C. After cooling the reaction mixture to RT the precipitate formed was filtered off and purified by preparative HPLC. The fractions containing the product were combined and evaporated down i. vac.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one dihydrochloride | 1.24 mmol, 0.361 g | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
reactant | (2-chloro-6-methoxypyridin-4-yl)-(5-fluoro-2,3-dihydroindol-1-yl)-methanone | 1.24 mmol, 0.380 mg | ClC1=NC(=CC(=C1)C(=O)N1CCC2=CC(=CC=C12)F)OC | C15H12ClFN2O2
reactant | potassium carbonate | 3.72 mmol, 514 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
product | 1-[4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydroimidazo[4,5-b]pyridin-2-one | FC=1C=C2CCN(C2=CC1)C(=O)C1=CC(=NC(=C1)OC)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H25FN6O3
